US04371644
2,2-bis{4-[2-benzoyloxy-3-(7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]dec-8-yl)propoxy]cyclohexyl}propane (Compound No. 222)
1.5 g of 2,2-bis{4-[2-hydroxy-3-(7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]dec-8-yl)propoxy]cyclohexyl}propane and 1.2 g of 2-benzoylthiobenzthiazole were refluxed in 30 ml of anhydrous benzene for 4.5 hours. After completion of the reaction, the reaction mixture was treated with an aqueous alkali and then extracted with benzene, giving crystals. The crystals were purified by column chromatography through silica gel eluted with a 4:1 by volume mixture of diethyl ether and ethyl acetate. The desired Compound No. 222 was obtained in the form of a white powder melting at 77°-79° C.

reactant | 2,2-bis{4-[2-hydroxy-3-(7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]dec-8-yl)propoxy]cyclohexyl}propane | 1.5 g | OC(COC1CCC(CC1)C(C)(C)C1CCC(CC1)OCC(CN1C(CC2(OCCO2)CC1(C)C)(C)C)O)CN1C(CC2(OCCO2)CC1(C)C)(C)C | C43H78N2O8
reactant | 2-benzoylthiobenzthiazole | 1.2 g | C(C1=CC=CC=C1)(=O)SC=1SC2=C(N1)C=CC=C2 | C14H9NOS2
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 2,2-bis{4-[2-benzoyloxy-3-(7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]dec-8-yl)propoxy]cyclohexyl}propane | C(C1=CC=CC=C1)(=O)OC(COC1CCC(CC1)C(C)(C)C1CCC(CC1)OCC(CN1C(CC2(OCCO2)CC1(C)C)(C)C)OC(C1=CC=CC=C1)=O)CN1C(CC2(OCCO2)CC1(C)C)(C)C | C57H86N2O10
